US04892971
In the process for the preparation of N-acetylphenylalanine by opening the ring of 2-methyl-4-benzylidene-1,3-oxazolin-5-one with water to give 2-acetaminocinnamic acid and subsequently catalytically hydrogenating the latter, both reaction stages are carried out in a mixture of an aliphatic C3 -ketone to C10 -ketone or a water-miscible ether and water as the solvent, and the hydrogenation of the 2-acetaminocinnamic acid is carried out at temperatures of 10° to 50° C. and pressures of 1 to 15 bar in the presence of a supported palladium catalyst.

reactant | N-acetylphenylalanine | C(C)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C11H13NO3
reactant | 2-methyl-4-benzylidene-1,3-oxazolin-5-one | CC=1OC(C(N1)=CC1=CC=CC=C1)=O | C11H9NO2
solvent | water | O | H2O
product | 2-acetaminocinnamic acid | N(C(=O)C)C1=C(C=CC(=O)O)C=CC=C1 | C11H11NO3
